US07632832B2
Step C. tert-Butyl 4-[({[2-{[tert-butyl(diphenyl)silyl]oxy}-1-(hydroxymethyl)ethyl]amino}carbonyl)amino]piperidine-1-carboxylate
Lithium aluminum hydride (1 M, 0.703 mL, 0.703 mmol) was added to a solution of N-({[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}carbonyl)-O-[tert-butyl(diphenyl)silyl]serine (373 mg, 0.639 mmol) in tetrahydrofuran (20 mL) at −78° C. The reaction was quenched with saturated ammonium chloride solution and partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography (1%→8% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (100 mg). MS 556.3 (M+1)

reactant | Lithium aluminum hydride | 0.703 mmol, 1 M, 0.703 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-({[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}carbonyl)-O-[tert-butyl(diphenyl)silyl]serine | 0.639 mmol, 373 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)N[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)O | C30H43N3O6Si
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-[({[2-{[tert-butyl(diphenyl)silyl]oxy}-1-(hydroxymethyl)ethyl]amino}carbonyl)amino]piperidine-1-carboxylate | 100 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CO)NC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C30H45N3O5Si
